US06753322B2
6-{[2,2-Bis(3-methylphenyl)ethyl]amino}-N-{2-[({[2-(diisopropylamino)ethyl]amino}carbonyl)-amino]ethyl}-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide
A solution of (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 48) (200 mg, 0.24 mmol), N-(2-aminoethyl)-N′-[2-(diisopropylamino)ethyl]urea (Preparation 52) air (270 mg, 1.18 mmol) and tetrakis(triphenylphosphine)palladium(0) (27 mg, 0.024 mmol) In THF (5 ml) was carbonylated at 60° C. and 345 KPa under a carbon monoxide atmosphere for 14 hours. TLC analysis showed the desired product together with partially deprotected material. To achieve complete removal of the benzoate protecting groups, solvent was evaporated under reduced pressure, the residue dissolved in methanol (10 ml), sodium carbonate (10 mg) added and the mixture allowed to stir at room temperature for 24 hours Solvent was again evaporated under reduced pressure and the residue purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (90:10, by volume) changing to dichloromethane:methanol:concentrated aqueous ammonia (90:10:1, by volume). After evaporation of appropriate fractions the residue was triturated with diethyl ether, filtered and dried to yield the target compound as a white solid, (0.11 g, 61%).

reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-{[2,2-bis(3-methylphenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.24 mmol, 200 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)I | C42H39IN6O6
reactant | N-(2-aminoethyl)-N′-[2-(diisopropylamino)ethyl]urea | NCCNC(=O)NCCN(C(C)C)C(C)C | C11H26N4O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{[2,2-Bis(3-methylphenyl)ethyl]amino}-N-{2-[({[2-(diisopropylamino)ethyl]amino}carbonyl)-amino]ethyl}-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | CC=1C=C(C=CC1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCNC(=O)NCCN(C(C)C)C(C)C)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC(=CC=C1)C | C40H56N10O6
